Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
visual disturbances
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old male with accelerated
phase CML who presents with dizziness. 

In ___ of this year he presented to his PCP with lethargy
and decreased stamina and some weight loss. Labs showed WBC 61,
Hgb 12.9, and plts 699 and was referred for further evaluation.
He was seen in clinic on ___. A diagnosis of
rapidly-progressing CML was confirmed. It was recommended that 
he
start imatinib 600 mg daily as soon as possible and was also
prescribed allopurinol. 

He reports an episode of lightheadedness and some visual
disturbances. He reports these episodes have been occurring
intermittently for many years, however recently in the last week
it happened twice. The episodes have no clear trigger. They are
not precipitated by certain movements or lack of 
eating/drinking.
They typically last about ___ minutes and resolve. He called
his doctor and reported his symptoms and was referred to the ED
for evaluation. He denies any fevers, chills, shortness of
breath, cough, chest pain, nausea, vomiting, change in bowels. 
No
new joint pains. He reports a rash x 1 month over his lower 
back.

In the ED, vital signs were 97.9 87 152/70 16 100% RA. Labs
significant for WBC 67.8, Hgb 12.5, plts 613 which are stable
from recent values. A CXR and CT head were performed and showed
no acute process. Neurology was consulted for evaluation. He was
admitted to ___ for further care. 

 
Past Medical History:
BPH
ED
Basal cell carcinomas, s/p excision

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General:  NAD
VITAL SIGNS: AF, 71 1895%RA
HEENT:  MMM, no OP lesions
NECK: supple
CV:  RR, NL S1S2 no S3S4 MRG
PULM:  CTAB
ABD:  BS+, soft, NTND, no masses or hepatosplenomegaly
EXT: no edema 
SKIN:  few small pink papules on lower back 
LYMPH: No cervical, axillary, or inguinal lymphadenopathy
NEURO:  Cranial nerves II-XII are within normal limits excluding
visual acuity which was not assessed, no nystagmus; strength is
___ of the proximal and distal upper and lower extremities.
coordination is intact.

DISCHARGE PHYSICAL EXAM:
General:  NAD
VITAL SIGNS: T 98.1 BP 100/60 HR 65 RR 18 O2 98%
HEENT:  MMM, no OP lesions
NECK: supple
CV:  RR, NL S1S2 no S3S4 MRG
PULM:  CTAB
ABD:  BS+, soft, NTND, no masses or hepatosplenomegaly
EXT: no edema 
SKIN:  few small pink papules on lower back 
LYMPH: No cervical, axillary, or inguinal lymphadenopathy
NEURO:  Cranial nerves II-XII are within normal limits excluding
visual acuity which was not assessed, no nystagmus; strength is
___ of the proximal and distal upper and lower extremities.
coordination is intact.

 
Pertinent Results:
___ 12:15AM BLOOD WBC-54.4* RBC-3.85* Hgb-11.0* Hct-34.8* 
MCV-90 MCH-28.6 MCHC-31.6* RDW-16.5* RDWSD-53.9* Plt ___
___ 06:12PM BLOOD WBC-67.8* RBC-4.29* Hgb-12.5* Hct-38.7* 
MCV-90 MCH-29.1 MCHC-32.3 RDW-16.5* RDWSD-54.1* Plt ___
___ 12:15AM BLOOD Neuts-63 Bands-1 Lymphs-2* Monos-8 Eos-2 
Baso-5* ___ Metas-12* Myelos-7* AbsNeut-34.82* AbsLymp-1.09* 
AbsMono-4.35* AbsEos-1.09* AbsBaso-2.72*
___ 06:12PM BLOOD Neuts-55 Bands-15* Lymphs-2* Monos-1* 
Eos-1 Baso-6* ___ Metas-15* Myelos-5* AbsNeut-47.46* 
AbsLymp-1.36 AbsMono-0.68 AbsEos-0.68* AbsBaso-4.07*
___ 12:15AM BLOOD Glucose-94 UreaN-24* Creat-1.1 Na-139 
K-4.3 Cl-107 HCO3-22 AnGap-14
___ 06:12PM BLOOD Glucose-85 UreaN-20 Creat-1.0 Na-138 
K-4.3 Cl-100 HCO3-23 AnGap-19
___ 12:15AM BLOOD ALT-18 AST-23 LD(LDH)-519* AlkPhos-48 
TotBili-0.3
___ 06:12PM BLOOD ALT-22 AST-31 LD(LDH)-734* AlkPhos-57 
TotBili-0.4
___ 12:15AM BLOOD Albumin-3.5 Calcium-8.8 Phos-4.3 Mg-2.1 
UricAcd-4.6
___ 06:12PM BLOOD Albumin-4.2 Calcium-9.7 Phos-4.1 Mg-2.2 
UricAcd-5.___ year old man with accelerated phase Ph+
CML who presents with dizziness and visual disturbances. 

# accelerated phase Ph+ CML
- start imatinib 600 mg daily per oncology- to continue
outpatient
- TLS labs Q12h, no evidence of TLS
- allopurinol ___ mg daily 
- f/u in clinic ___ or sooner if issues arise

# dizziness and visual disturbances - reassuring that not a new
occurrence low suspicion to increase frequency due to 
allopurinol
and/or CML diagnosis. not orthostatic. labs stable. CT head
negative. Infectious workup including UA and CXR unrevealing 
- appreciate neurology input-not urgent but consider outpatient
f/u with EEG/MRI, will have patient set up PCP visit to further
work up
- treatment of CML as above

FEN: 
- Electrolytes per oncology scales
- Regular diet
PAIN: tylenol prn 
BOWEL REGIMEN:colace 
DVT PROPHYLAXIS: 
- Heparin 5000 units SC TID
ACCESS: PIV
CODE STATUS: presumed full
CONTACT INFORMATION: ___ ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cialis (tadalafil) unknown  oral QHS:PRN 
2. Allopurinol ___ mg PO DAILY 
3. IMatinib Mesylate 600 mg PO DAILY 

 
Discharge Medications:
1.  Cialis (tadalafil) 5  mg oral QHS:PRN ED  
2.  Allopurinol ___ mg PO DAILY  
3.  IMatinib Mesylate 600 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CML
visual disturbance

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted due to worsening visual disturbance and 
headache after starting allopurinol. We do not feel this is the 
cause of your symptoms and your symptoms resolved quickly 
afterwards. We do recommend talking to your PCP about this for a 
full outpatient evaluation however are reassured that these 
episodes are not new. You will follow up with Dr. ___ as 
scheduled below. Please continue to take your imatinib pill 
daily. Please do not hesitate to call us in the meantime with 
any questions or concerns.
 
Followup Instructions:
___